US07192948B2
N-(4-fluorobenzyl)-3-hydroxy-9,9-dimethyl-4,7-dioxo-6,7,8,9-tetrahydro-4H-pyrazino[1,2-a]pyrimidine-2-carboxamide.
Intermediate 30, ethyl 3-(benzoyloxy)-9,9-dimethyl-4,7-dioxo-6,7,8,9-tetrahydro-4H-pyrazino[1,2-a]pyrimidine-2-carboxylate, (1 mmol), was dissolved in 4 mL of DMF. To this was added 4-fluorobenzylamine (0.457 mL, 4 mmol) and triethylamine (0.139 mL, 1 mmol). The mixture was warmed to 80° C. and allowed to stir overnight, after which it was allowed to cool to room temperature and transferred to a seperatory funnel. The mixture was diluted with ethyl acetate, washed with 1N HCl, dried over Na2SO4 then concentrated in vacuo. Methanol and ether were added to the residue and the resulting precipitate isolated by filtration. 1H NMR (500 MHz, DMSO) δ: 1.56 (s, 3H), 4.50 (m, 4H), 7.17 (m, 2H), 7.38 (m, 2H), 8.72 (brs, 1H), 9.37 (brm, 1H), 12.37 (s, 1H).

reactant | ethyl 3-(benzoyloxy)-9,9-dimethyl-4,7-dioxo-6,7,8,9-tetrahydro-4H-pyrazino[1,2-a]pyrimidine-2-carboxylate | 1 mmol | C(C1=CC=CC=C1)(=O)OC1=C(N=C2N(C1=O)CC(NC2(C)C)=O)C(=O)OCC | C19H19N3O6
reactant | 4-fluorobenzylamine | 4 mmol, 0.457 mL | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | triethylamine | 1 mmol, 0.139 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-fluorobenzyl)-3-hydroxy-9,9-dimethyl-4,7-dioxo-6,7,8,9-tetrahydro-4H-pyrazino[1,2-a]pyrimidine-2-carboxamide | FC1=CC=C(CNC(=O)C=2N=C3N(C(C2O)=O)CC(NC3(C)C)=O)C=C1 | C17H17FN4O4
